US07678801B2
3-{8-(2,6-difluorophenyl)-2-[[2-(dimethylamino)ethyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (50 mg, 0.09 mmol) in DCM (10 mL) was added N,N,N′-trimethyl-1,2-ethanediamine (0.057 mL, 0.44 mmol). The resultant mixture was stirred at room temperature overnight. The mixture was concentrated under vacuo. Flash chromatography (90% CH2Cl2/7% MeOH/3% NH4OH) then provided the title compound (13 mg, 25%).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.09 mmol, 50 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C28H19F3N4O3S
reactant | N,N,N′-trimethyl-1,2-ethanediamine | 0.44 mmol, 0.057 mL | CN(CCNC)C | C5H14N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-2-[[2-(dimethylamino)ethyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide | 13 mg, 25% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)N(C)CCN(C)C)=O | C32H29F3N6O2
